US06943159B1
3-Cyclohexyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide:
2-Aminobenzenesulfonamide was transformed by Method E (using cyclohexanecarbonyl chloride).

reactant | 2-Aminobenzenesulfonamide | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | 3-Cyclohexyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide | C1(CCCCC1)C=1NS(C2=C(N1)C=CC=C2)(=O)=O | C13H16N2O2S
